US06482859B1
2.5 g of (S)-2-(methylsulfonyl-amino)-3-methyl-butyric acid N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-amide and 2.7 g of toluene-4-sulfonic acid (3-phenyl-2-propyn-1-yl) ester are heated at reflux for 3 hours together with 12 ml of 1M sodium methanolate solution with the addition of 20 mg of potassium iodide in 50 ml of methanol. The reaction mixture is cooled and introduced into 200 ml of saturated sodium chloride solution. Extraction is carried out twice using 200 ml of ethyl acetate each time. The organic phases are combined, dried over magnesium sulfate and concentrated. The residue is subjected to flash chromatography on silica gel with ethyl acetate/n-hexane (2:1), yielding (S)-2-(methylsulfonyl-amino)-3-methyl-butyric acid N-{2-[3-methoxy-4-(3-phenyl-2-propyn-1-yloxy)-phenyl]-ethyl}-amide, which is recrystallised from ethyl acetate/n-hexane, m.p. 130-132° C.

reactant | (S)-2-(methylsulfonyl-amino)-3-methyl-butyric acid N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-amide | 2.5 g | OC1=C(C=C(C=C1)CCNC([C@H](C(C)C)NS(=O)(=O)C)=O)OC | C15H24N2O5S
reactant | toluene-4-sulfonic acid (3-phenyl-2-propyn-1-yl) ester | 2.7 g | C1(=CC=CC=C1)C#CCOS(=O)(=O)C1=CC=C(C=C1)C | C16H14O3S
reactant | sodium methanolate | 1M, 12 ml | C[O-].[Na+]
reactant | potassium iodide | 20 mg | [I-].[K+]
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | (S)-2-(methylsulfonyl-amino)-3-methyl-butyric acid N-{2-[3-methoxy-4-(3-phenyl-2-propyn-1-yloxy)-phenyl]-ethyl}-amide | COC=1C=C(C=CC1OCC#CC1=CC=CC=C1)CCNC([C@H](C(C)C)NS(=O)(=O)C)=O | C24H30N2O5S
